US08748415B2
Step 2. Preparation of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate
To the crude product from above containing tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((hydroxyimino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (100 mg, 0.163 mmol) in a 100 mL pear shape flask was added EtOH (12 mL) to form a clear solution. To this was added excess of NH4Cl (400 mg, 5.19 mmol) and sodium cyanoborohydre (300 mg, 4.77 mmol). The mixture was stirred in an ice bath until cold. To this suspension was added titanium(III) chloride (4 mL, 0.163 mmol) 20% solution. The resulting mixture was blanketed with nitrogen. The ice bath was removed and the stirring was continued at rt for an hour. LCMS show the reaction was complete. At this point, the mixture was dark greenish-blue-purple. A solution of sodium hydroxide (3 mL, 10N in 25 mL water) was added into the reaction mixture, along with methylene chloride (30 mL).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((hydroxyimino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.163 mmol, 100 mg | ON=C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H59NO3
reactant | NH4Cl | 5.19 mmol, 400 mg | [NH4+].[Cl-]
reactant | sodium | [Na] | Na
catalyst | titanium(III) chloride | 0.163 mmol, 4 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
solvent | EtOH | 12 mL | CCO | C2H6O
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H61NO2
